US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 6-cyanopyridine-3-carbonyl chloride were combined to provide N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-6-cyanonicotinamide as an off white powder, m.p. 125.0-129.0° C. 1H NMR (300 MHz, DMSO-d6) δ9.05 (dd, J=2.1, 0.8 Hz, 1H), 8.88 (t, J=5.6 Hz, 1H), 8.31 (dd, J=8.1, 2.1 Hz, 1H), 8.21 (s, 1H), 8.14 (dd, J=8.1, 0.8 Hz, 1H), 8.03 (m, 1H), 7.62 (dd, J=8.3, 1.1 Hz, 1H), 7.42 (m, 1H), 7.20 (m, 1H), 6.59 (broad s, 2H), 4.64 (t, J=6.9 Hz, 2H), 3.30 (m, 2H), 1.93 (m, 2H), 1.59 (m, 2H); MS (EI) m/e 385.1648 (385.1651 calcd for C21H19N7O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 6-cyanopyridine-3-carbonyl chloride | C(#N)C1=CC=C(C=N1)C(=O)Cl | C7H3ClN2O
product | N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-6-cyanonicotinamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CN=C(C=C2)C#N)=O | C21H19N7O
